US04518597
7-Chloro-6-[4-(3,4-dichloro-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 7-chloro-6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-(3,4-dichloro-phenylsulfinyl)-butylbromide.

reactant | 7-chloro-6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=CC2=C(C(OC(N2)=O)(C)C)C=C1O | C10H10ClNO3
reactant | 4-(3,4-dichloro-phenylsulfinyl)-butylbromide | ClC=1C=C(C=CC1Cl)S(=O)CCCCBr | C10H11BrCl2OS
product | 7-Chloro-6-[4-(3,4-dichloro-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=CC2=C(C(OC(N2)=O)(C)C)C=C1OCCCCS(=O)C1=CC(=C(C=C1)Cl)Cl | C20H20Cl3NO4S
